US07763609B2
To a solution of 3-(tert-butoxycarbonyl)-4-(3-bromophenyl)-4-methyl-[1,2,3]-oxathiazolidine-2-oxide (10.4 g, 28 mmol) in CH3CN (50 mL) at 0° C. was added RuO4 (0.5% in stabilized aq., 50 mg, 0.1% by weight) in H2O (10 mL) and NaIO4 (8.9 g, 41.5 mmol, 1.5 eq) in H2O (35 mL). The mixture was stirred at RT for 2 h. The mixture was partitioned between Et2O (200 mL) and H2O (50 mL). The organic layer was separated and the aqueous layer was extracted with Et2O (3×50 mL). The combined organic layer was dried (Na2SO4), and concentrated to give 10.8 g (100%) of 3-(tert-butoxycarbonyl)-4-(3-bromophenyl)-4-methyl-[1,2,3]-oxathiazolidine-2,2-dioxide (DC4; R6=Me) as a white solid (˜10.8 g, yield: 100%). 1H NMR (CDCl3) δ 7.56 (t, J=1.8 Hz, 1H), 7.48-7.52 (m, 1H), 7.38-7.44 (m, 1H), 7.30 (t, J=8.0 Hz, 1H), 4.41 (dd, J1=9.3 Hz, J2=20.4 Hz, 2H), 2.01 (s, 3H), 1.39 (s, 9H).

reactant | 3-(tert-butoxycarbonyl)-4-(3-bromophenyl)-4-methyl-[1,2,3]-oxathiazolidine-2-oxide | 28 mmol, 10.4 g | C(C)(C)(C)OC(=O)N1S(OCC1(C)C1=CC(=CC=C1)Br)=O | C14H18BrNO4S
reactant | H2O | 10 mL | O | H2O
reactant | H2O | 35 mL | O | H2O
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 3-(tert-butoxycarbonyl)-4-(3-bromophenyl)-4-methyl-[1,2,3]-oxathiazolidine-2,2-dioxide | 10.8 g, 100% | C(C)(C)(C)OC(=O)N1S(OCC1(C)C1=CC(=CC=C1)Br)(=O)=O | C14H18BrNO5S
